data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4738,5411,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,19.16405135563768,-31.546226664542345
3485,3969,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([CH3:8])=[N+:9]([CH3:10])[C-:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH2:1]1[CH2:2][C:11]([CH3:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:9]([CH3:10])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[CH3:8],water,298.15,23.746497006427933,-39.82601839548653
81,92,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][O:9][C:10](=[O:11])[C:12]#[N+:13][C-:14]([CH3:15])[CH3:16]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])=[N:13][C:14]1([CH3:15])[CH3:16],water,298.15,18.475699164907105,-71.70792193065049
3524,4022,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([CH3:11])[N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])([CH3:11])[N:12]=[C:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,13.418492761185009,-29.976856355559
5066,5754,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([O+:10]=[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[O:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,21.979756524467845,-37.956591528475535
3466,3947,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([CH3:10])=[NH+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[NH:11][C:9]1([C:7]([O:6][CH3:5])=[O:8])[CH3:10],water,298.15,24.633806501092373,-16.093790050032567
4051,4640,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([CH3:12])[N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:15]([C:16]#[N:17])([C:18](=[O:19])[O:20][CH3:21])[N:13]([CH3:14])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,37.48743573782984,1.6377046114030958
3263,3688,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][C-:14]([CH3:15])[C:16]#[N:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]([CH3:15])([C:16]#[N:17])[NH:13][CH:12]2[C:10]([CH3:9])=[O:11],water,298.15,11.736065464150055,-24.20275761025917
4251,4862,[CH3:6][O:7][C:8](=[O:9])[CH-:10][NH+:11]=[C:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([C:13](=[O:14])[O:15][CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:11][CH:10]1[C:8]([O:7][CH3:6])=[O:9],water,298.15,54.60218234563175,32.11255311932902
2412,2680,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([CH3:27])[CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:26]([CH3:27])([CH3:28])[O:25][C:24]2([C:22]([CH3:21])=[O:23])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,15.356722253618804,-49.79698318041998
1969,2184,[CH3:19][O:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([CH3:26])[CH3:27])[C:28](=[O:29])[O:30][CH3:31].[N:1]#[C:2][C:3]([C:4]#[N:5])=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[C:23]([C:21]([O:20][CH3:19])=[O:22])([C:28](=[O:29])[O:30][CH3:31])[NH:24][C:25]1([CH3:26])[CH3:27],water,298.15,32.68496813969824,22.443468475452704
1627,1798,[CH3:15][C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:19]([CH3:20])[C:16]2([CH3:15])[C:17]#[N:18],water,298.15,14.338324368205583,-37.9937347084166
